US05091371
One gram of the benanomicin A-dimethylformamide solvate as obtained from said first fraction was dissolved in dimethyl sulfoxide (5 ml). The resultant solution was added dropwise under stirring into 300 ml of methanol, followed by stirring for 10 minutes to deposit a precipitate of a reddish brown color. The precipitate was filtered out and then dried under reduced pressure, to afford 935 mg of a purified benanomicin A as reddish brown powder.

reactant | benanomicin A dimethylformamide | One gram | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)N[C@H](C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)O.CN(C=O)C
reactant | methanol | 300 ml | CO | CH4O
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | benanomicin A | 935 mg | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)N[C@H](C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)O | C39H41NO19
